US05438052
(3,4-Dimethoxyphenyl)malonaldehyde acid methyl ester (7.2 g) (30 mmol) and 10 g (42 mmol) of benzamidine are melted at 100° C. The reaction mixture is chromatographed on 250 g of silica gel (0.063-0.2 mm) and the product is eluted with dichloromethane/methanol (9:1 v/v). The eluate is concentrated in a vacuum at 45° C. and the crystalline product is filtered off under suction. The whole is washed with diethyl ether and dried in a high vacuum at room temperature. There are obtained 6.2 g of 5-(3,4-dimethoxyphenyl)-2-phenyl-6(1H)-pyrimidinone as yellow crystals of m.p. 230° C.

reactant | (3,4-Dimethoxyphenyl)malonaldehyde | 30 mmol, 7.2 g | COC=1C=C(C=CC1OC)C(C=O)C=O | C11H12O4
reactant | benzamidine | 42 mmol, 10 g | C(C1=CC=CC=C1)(=N)N | C7H8N2
product | 5-(3,4-dimethoxyphenyl)-2-phenyl-6(1H)-pyrimidinone | 6.2 g | COC=1C=C(C=CC1OC)C1=CN=C(NC1=O)C1=CC=CC=C1 | C18H16N2O3
